US07375115B2
3-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]-1,1-propanedicarboxylic acid
To a solution of triethyl 3-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]-1,1,1-propanetricarboxylate (200 mg) in 1,4-dioxane (9 mL) and water (3 mL) was added lithium hydroxide (100 mg). After stirring the solution at room temperature for 7 hours, water was added thereto and it was concentrated under reduced pressure. Acetic acid (0.14 mL) was added to the residue, and the solution was further concentrated under reduced pressure and to dryness. The residue was purified by chromatography (DIAION HP20 manufactured by Mitubishi Chemical Corporation, methanol) to give the title compound (150 mg).

reactant | triethyl 3-[1-[2-[4-[N-(5-methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]-1,1,1-propanetricarboxylate | 200 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CCC(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C36H51N3O8
reactant | lithium hydroxide | 100 mg | [OH-].[Li+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | 3-[1-[2-[4-[N-(5-Methylpyridin-2-yl)-2-furancarboxamido]piperidin-1-yl]ethyl]cyclohexyl]-1,1-propanedicarboxylic acid | 150 mg | CC=1C=CC(=NC1)N(C(=O)C=1OC=CC1)C1CCN(CC1)CCC1(CCCCC1)CCC(C(=O)O)C(=O)O | C29H39N3O6
